US06004531
A quantity of the S-{2-[N-(2-acetylaminoethyl)carbamoyl]ethyl} thioacetate, prepared above, (3.2 g, 23 mmol), 2-(2-chloroethylthio)tetrahydropyran (2 g, 11 mmol), potassium hydroxide (2.5 g, 44 mmol), methanol (10 cm3) and water (5 cm3) were mixed together and heated at 75° C. for 30 min. The mixture was allowed to cool and then partitioned between chloroform (50 cm3) and water (50 cm3). The organic layer was separated and the aqueous layer extracted with a further portion of chloroform. The combined chloroform extracts were then dried (MgSO4) and volatile components removed under reduced pressure to leave the crude product as an oily solid. A quantity of this material was purified firstly by chromatography on silica using a mixture of ethyl acetate, and methanol (95:5) as the eluant and then by reverse phase h.p.l.c. using aqueous methanol as the eluant. The pure N-(2-acetylaminoethyl)-3-[2-(tetrahydropyran-2-ylthio)ethylthi o]propionamide was obtained as a white solid (0.3 g).

reactant | S-{2-[N-(2-acetylaminoethyl)carbamoyl]ethyl} thioacetate | C(C)(=O)SCCC(NCCNC(C)=O)=O | C9H16N2O3S
reactant | 2-(2-chloroethylthio)tetrahydropyran | 23 mmol, 3.2 g | ClCCSC1OCCCC1 | C7H13ClOS
reactant | potassium hydroxide | 44 mmol, 2.5 g | [OH-].[K+]
reactant | methanol | 10 cm3 | CO | CH4O
solvent | water | 5 cm3 | O | H2O
product | N-(2-acetylaminoethyl)-3-[2-(tetrahydropyran-2-ylthio)ethylthi o]propionamide | C(C)(=O)NCCNC(CCSCCSC1OCCCC1)=O | C14H26N2O3S2
